US08729102B2
J) Diastereomer of 2-(5-{[(2S)-2-aminopropyl]oxy}pyridin-2-yl)-2-methyl-2,3-dihydro-1-benzofuran-6-ol dihydrochloride
A solution of 4 M hydrogen chloride/ethyl acetate (10 mL) was added dropwise to a solution of diastereomer of tert-butyl [(1S)-2-({6-[6-(methoxymethoxy)-2-methyl-2,3-dihydro-1-benzofuran-2-yl]pyridin-3-yl}oxy)-1-methylethyl]carbamate (1000 mg) in ethyl acetate (20 mL) at room temperature. The mixture was stirred at room temperature for 3 hr. The resulting precipitate was collected by filtration to give the title compound (650 mg).

reactant | hydrogen chloride ethyl acetate | 4 M, 10 mL | Cl.C(C)(=O)OCC
reactant | tert-butyl [(1S)-2-({6-[6-(methoxymethoxy)-2-methyl-2,3-dihydro-1-benzofuran-2-yl]pyridin-3-yl}oxy)-1-methylethyl]carbamate | 1000 mg | COCOC1=CC2=C(CC(O2)(C)C2=CC=C(C=N2)OC[C@H](C)NC(OC(C)(C)C)=O)C=C1 | C24H32N2O6
solvent | ethyl acetate | 20 mL | C(C)(=O)OCC | C4H8O2
product | 2-(5-{[(2S)-2-aminopropyl]oxy}pyridin-2-yl)-2-methyl-2,3-dihydro-1-benzofuran-6-ol dihydrochloride | 650 mg | Cl.Cl.N[C@H](COC=1C=CC(=NC1)C1(OC2=C(C1)C=CC(=C2)O)C)C | InChI=1S/C17H20N2O3.2ClH/c1-11(18)10-21-14-5-6-16(19-9-14)17(2)8-12-3-4-13(20)7-15(12)22-17;;/h3-7,9,11,20H,8,10,18H2,1-2H3;2*1H/t11-,17?;;/m0../s1
